US06436982B1
A solution of 2,4-dinitro-6-bromoaniline (2.5 g, 9.5 mmol), tetraphenylltin (6.1 g, 14.3 mmol) and Cl2Pd(PPh3)2 (100 mg) in 10 ml of DMF was stirred at 140° C. for 12 h. Reaction mixture was concentrated in vacuo, yielding an oil which was purified on silica gel column chromatography (CH2Cl2, neat) to provide 1.0 g (3.8 mmol, 41%) of 2,4-dinitro-6-phenylaniline, which was converted to the diamine (0.72 g, >95%) on hydrogenation (H2/Pd—C).

reactant | 2,4-dinitro-6-bromoaniline | 9.5 mmol, 2.5 g | [N+](=O)([O-])C1=C(N)C(=CC(=C1)[N+](=O)[O-])Br | C6H4BrN3O4
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2,4-dinitro-6-phenylaniline | 3.8 mmol, 1.0 g, 41% | [N+](=O)([O-])C1=C(N)C(=CC(=C1)[N+](=O)[O-])C1=CC=CC=C1 | C12H9N3O4
